US09127024B2
Step 1: Synthesis of 3-borono-4-methylbenzoic acid
3-Bromo-4-methylbenzoic acid (11.00 g, 51.2 mmol) was dissolved in anhydrous THF (150 ml) under argon in a 500 ml 3-necked round bottom flask fitted with two dropping funnels and argon inlet. The stirred solution was cooled to −78° C. and n-BuLi (1.6M in hexane, 60.7 ml, 97.0 mmol) was added drop wise from a dropping funnel (during 1 h). After completion of the addition, the solution was stirred at −78° C. for another 1 h. To this, B(OMe)3 (17.7 ml, 159.0 mmol) was added slowly from a second dropping funnel. The mixture was stirred 1 h at −78° C. and then warmed up to room temperature overnight. The solvent was evaporated under reduced pressure. The crude product was dissolved in ether and poured into aqueous HCl (1N). The mixture was extracted with ether (3×150 ml), and the combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered, and evaporated to dryness. The crude product was purified using an ISCO system (220 g silica column, hexane/EtOAc gradient and later DCM/MeOH gradient). The impurities washed off in hexane/EtOAc and the pure product eluted in MeOH/DCM (5:95) solvent mixture to give 3.3 g (33% yield) of pure SKC-01-126. 1H NMR (400 MHz, Acetone-d6) δ 12.10 (br s, 1H), 8.16 (s, 1H), 7.90-7.63 (m, 1H), 7.11 (d, J=7.9 Hz, 1H), 2.42 (s, 3H).

reactant | 3-Bromo-4-methylbenzoic acid | 51.2 mmol, 11.00 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | n-BuLi | 97.0 mmol, 1.6M, 60.7 ml | [Li]CCCC
reactant | B(OMe)3 | 159.0 mmol, 17.7 ml | B(OC)(OC)OC | C3H9BO3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-borono-4-methylbenzoic acid | 33% yield | B(O)(O)C=1C=C(C(=O)O)C=CC1C | C8H9BO4
